US07754744B2
Step 2: 6-(Piperidin-4-ylamino)-nicotinonitrile dihydrochloride (Intermediate B2)
A solution of 4-(5-cyano-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (2.6 g, 8.60 mmol) in 4 M HCl in dioxane (20 mL) was stirred at rt for 1 h. The solvent was removed under reduced pressure and the crude product used in the consecutive step without further purification assuming quantitative deprotection and formation of the dihydrochloride salt. MS (ISP): 203.3 [M+H]+.

reactant | 4-(5-cyano-pyridin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 8.60 mmol, 2.6 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=C1)C#N | C16H22N4O2
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | 6-(Piperidin-4-ylamino)-nicotinonitrile dihydrochloride | Cl.Cl.N1CCC(CC1)NC1=NC=C(C#N)C=C1 | InChI=1S/C11H14N4.2ClH/c12-7-9-1-2-11(14-8-9)15-10-3-5-13-6-4-10;;/h1-2,8,10,13H,3-6H2,(H,14,15);2*1H
